US06576766B1
b) Methyl 3,5-Bis[[(trifluoromethyl)sulfonyl]oxy]-2-naphthoate
To a solution of methyl 3,5-dihydroxy-2-naphthoate (2.0 g, 9.17 mmol) in CH2Cl2 (43 mL) at rt was added Et3N (4.0 g, 5.6 mL, 40.3 mmol) followed by PhNTf2 (7.2 g, 20.2 mmol). The solution was then stirred at rt for 18 hours. The reaction mixture was diluted with Et2O and washed with 1.0 M aqueous HCl. The extract was dried over MgSO4 and concentrated in vacuo. The crude material was chromatographed on silica gel (20:1 hexanes:EtOAc) to give a 1:1 mixture of the title compound and PhNHTf.

reactant | methyl 3,5-dihydroxy-2-naphthoate | 9.17 mmol, 2.0 g | OC=1C(=CC2=CC=CC(=C2C1)O)C(=O)OC | C12H10O4
reactant | Et3N | 40.3 mmol, 5.6 mL, 4.0 g | CCN(CC)CC | C6H15N
reactant | PhNTf2 | 20.2 mmol, 7.2 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | PhNHTf | C1(=CC=CC=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
solvent | CH2Cl2 | 43 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | Methyl 3,5-Bis[[(trifluoromethyl)sulfonyl]oxy]-2-naphthoate | FC(S(=O)(=O)OC=1C(=CC2=CC=CC(=C2C1)OS(=O)(=O)C(F)(F)F)C(=O)OC)(F)F | C14H8F6O8S2
